US08309580B2
(5) 3-[({4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]propanoic acid
To a mixture of 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid (326 mg) synthesized above, ethyl 3-(methylamino)propanoate (108 mg), 1-hydroxybenzotriazole monohydrate (126 mg) and triethylamine (115 μL) in N,N-dimethylformamide (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (158 mg), and the mixture was stirred at room temperature for 1.5 days. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane) to give colorless oil. To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 2.5 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (1 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (291 mg, 76%) as a white solid.

reactant | 4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]benzoic acid | 326 mg | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)NC1=CC=C(C(=O)O)C=C1 | C26H26F3NO2S
reactant | ethyl 3-(methylamino)propanoate | 108 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-hydroxybenzotriazole monohydrate | 126 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 158 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 115 μL | C(C)N(CC)CC | C6H15N
product | 3-[({4-[(cyclohexyl{2-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-3-yl}methyl)amino]phenyl}carbonyl)(methyl)amino]propanoic acid | 291 mg, 76% | C1(CCCCC1)C(C1=C(SC(=C1)C1=CC=C(C=C1)C(F)(F)F)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C | C30H33F3N2O3S
